US07737163B2
Step 1. 2-benzyl-α,α-dimethyl-2H-tetrazole-5-acetic acid, ethyl ester
To a stirred mixture of α,α-dimethyltetrazole-5-acetic acid, ethyl ester (J. Med. Chem. 1996, 39, 2354-2366.) (6.87 g, 37.3 mmol) and K2CO3 (12.3 g, 89.0 mmol) in acetone (200 mL) was added benzyl bromide (4.45 mL, 37.4 mmol) at ambient temperature. The resulting mixture was stirred at 50° C. for 18 h and concentrated under reduced pressure. The resulting residue was chromatographed on a column of silica gel eluting with hexane/ethyl acetate (10:1) to give 6.14 g (60%) of the title compound as a colorless oil.

reactant | α,α-dimethyltetrazole-5-acetic acid, ethyl ester | 37.3 mmol, 6.87 g | CC(C(=O)OCC)(C1=NN=NN1)C | C7H12N4O2
reactant | K2CO3 | 89.0 mmol, 12.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 37.4 mmol, 4.45 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 2-benzyl-α,α-dimethyl-2H-tetrazole-5-acetic acid, ethyl ester | 6.14 g, 60% | C(C1=CC=CC=C1)N1N=C(N=N1)C(C(=O)OCC)(C)C | C14H18N4O2
